US05110955
A solution of 0.8 g (2.6 mmol) of methyl (Z)-5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-3-methyl-2-pentenoate in toluene (5 ml) was treated dropwise with 0.75 ml of a 3.5 molar Red-Al solution in toluene. After 2 hours at room temperature the mixture was poured into saturated ammonium chloride solution and extracted with ether. The combined extracts were washed with water, dried and concentrated to a colourless oil which was purified on silica gel with hexane/ethyl acetate 9:1→6:1, yielding 0.39 g of crystalline (Z)-5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-3-methyl-2-penten-1-ol. M.P. 58.5°-60° C.

reactant | methyl (Z)-5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-3-methyl-2-pentenoate | 2.6 mmol, 0.8 g | COC1=C(C(=C(C(=C1C)C)OC)C)CC\C(=C/C(=O)OC)\C | C18H26O4
reactant | Red-Al | 3.5 molar | COCCO[AlH2-]OCCOC.[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | (Z)-5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-3-methyl-2-penten-1-ol | 0.39 g | COC1=C(C(=C(C(=C1C)C)OC)C)CC\C(=C/CO)\C | C17H26O3
